US03971819
A. 5-dimethylsulphamyl-3-nitro-4-phenoxy-benzoic acid
A mixture of 4-chloro-5-dimethylsulphamyl-3-nitro-benzoic acid (3.08 g), phenol (2 g), sodium hydrogen carbonate (3.4 g), and water (20 ml) was heated at 90°C for 8 hours. Then water (40 ml) was added and, after cooling, the 5-dimethylsulphamyl-3-nitro-4-phenoxy-benzoic acid was precipitated by acidification with 4N hydrochloric acid. After isolation by filtration and several recrystallizations from ethanol, the said compound was obtained with a melting point of 224°-226°C.

reactant | 4-chloro-5-dimethylsulphamyl-3-nitro-benzoic acid | 3.08 g | ClC1=C(C=C(C(=O)O)C=C1S(N(C)C)(=O)=O)[N+](=O)[O-] | C9H9ClN2O6S
reactant | phenol | 2 g | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydrogen carbonate | 3.4 g | C(O)([O-])=O.[Na+]
solvent | water | 40 ml | O | H2O
solvent | water | 20 ml | O | H2O
product | 5-dimethylsulphamyl-3-nitro-4-phenoxy-benzoic acid | CN(S(=O)(=O)C=1C(=C(C=C(C(=O)O)C1)[N+](=O)[O-])OC1=CC=CC=C1)C | C15H14N2O7S
